US07550459B2
(R)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one
A reaction flask was charged with 4H-Benzo[1,4]oxazin-3-one (1.49 g, 10.0 mmol), (S)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane (2.67 g, 10.0 mmol), and Cs2CO3 (4.89 g, 15.0 mmol) in MeCN (15 mL) and stirred at rt for 7 days. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 2:1) to give the title compound (2.84 g, 85%).

reactant | 4H-Benzo[1,4]oxazin-3-one | 10.0 mmol, 1.49 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | (S)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane | 10.0 mmol, 2.67 g | BrC[C@H](CO[Si](C)(C)C(C)(C)C)C | C10H23BrOSi
reactant | Cs2CO3 | 15.0 mmol, 4.89 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 15 mL | CC#N | C2H3N
product | (R)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 2.84 g, 85% | [Si](C)(C)(C(C)(C)C)OC[C@@H](CN1C(COC2=C1C=CC=C2)=O)C | C18H29NO3Si
